US04667032
To a suspension of 1,7-dimethoxy-3H-phenothiazin-3-one (800 mg) in acetic acid (24 ml) was added a 1.15M solution of Cl2 in acetic acid (3.1 ml). After 15 minutes, methanol was added and the mixture was filtered, washed with ether and air dried to afford a mixture of the two title compounds (700 mg), which were separated on a silica gel column (EtOAc:CH2Cl2, 1:9), affording 4-chloro-1,7-dimethoxy-3H-phenothiazin-3-one, m.p. 278°-280° C. (dec.)

reactant | 1,7-dimethoxy-3H-phenothiazin-3-one | 800 mg | COC1=CC(C=C2SC3=CC(=CC=C3N=C12)OC)=O | C14H11NO3S
reactant | Cl2 | ClCl | Cl2
reactant | methanol | CO | CH4O
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 3.1 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-1,7-dimethoxy-3H-phenothiazin-3-one | ClC=1C(C=C(C2=NC3=CC=C(C=C3SC12)OC)OC)=O | C14H10ClNO3S
